US07074794B2
Sodium hydride (containing by 60%, 6.15 g) was suspended in DMF (120 mL) and 2-mercapto-6-nitrobenzothiazole (20 g) was added thereto under ice-cooling. After completion of bubbling, methyl iodide (26.4 mL) was added thereto. The mixture was stirred at room temperature for 18 hr. Water (800 mL) was added to the reaction mixture, and the precipitated solid was collected by filtration to give 2-methylthio-6-nitrobenzothiazole (21.2 g) as a pale-yellow powder.

reactant | Sodium hydride | 6.15 g | [H-].[Na+]
reactant | 2-mercapto-6-nitrobenzothiazole | 20 g | SC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H4N2O2S2
reactant | DMF | 120 mL | CN(C)C=O | C3H7NO
product | 2-methylthio-6-nitrobenzothiazole | 21.2 g | CSC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C8H6N2O2S2
